US08497397B2
(102a) N-{4-[2-(4-Isopropoxyphenyl)ethoxy]benzoyl}glycine
The same reaction as in Example 78 (78a) was conducted using N-(4-hydroxybenzoyl)glycine ethyl ester (which is the compound disclosed in J. Med. Chem., (1999), 42, 1041-1052, 397 mg, 2.20 mmol) and 2-(4-isopropoxyphenyl)ethanol (which is the compound disclosed in J. Chem. Soc. Perkin Trans. 1, (1983), 619-624, 447 mg, 2.00 mmol) to give 636 mg of the title compound (white powder, yield: 82%).

reactant | N-(4-hydroxybenzoyl)glycine ethyl ester | C(C)OC(CNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
reactant | 2-(4-isopropoxyphenyl)ethanol | C(C)(C)OC1=CC=C(C=C1)CCO | C11H16O2
product | N-{4-[2-(4-Isopropoxyphenyl)ethoxy]benzoyl}glycine | 636 mg, yield: 82% | C(C)(C)OC1=CC=C(C=C1)CCOC1=CC=C(C(=O)NCC(=O)O)C=C1 | C20H23NO5
